US08975400B2
3-fluoro-5-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile
To a solution of 3-cyano-5-fluorobenzoic acid (1.00 g, 6.06 mmol) in tetrahydrofuran (THF) (20 mL) was added di(1H-imidazol-1-yl)methanone (1.08 g, 6.66 mmol). The reaction mixture was stirred at 20° C. for 1 h. Then a suspension of NaBH4 (0.687 g, 18.2 mmol) in water (5 mL) was added dropwise. The reaction mixture was stirred at 20° C. for 20 h, quenched with saturated aqueous NH4Cl and extracted with ethyl acetate (20 mL×3). Combined organic portions were washed with saturated aqueous NaHCO3 (20 mL), brine (20 mL), dried over Na2SO4 and concentrated in vacuo to get the desired product as a white solid. 1HNMR (400 MHz, CDCl3): δ 4.697 (m, 2H) & 7.104˜7.400 (m, 3H).

reactant | 3-cyano-5-fluorobenzoic acid | 6.06 mmol, 1.00 g | C(#N)C=1C=C(C(=O)O)C=C(C1)F | C8H4FNO2
reactant | di(1H-imidazol-1-yl)methanone | 6.66 mmol, 1.08 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | NaBH4 | 18.2 mmol, 0.687 g | [BH4-].[Na+]
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 3-fluoro-5-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile | FC=1C=C(C#N)C=C(C1)COC=1C=C2N(C(N1)=O)CCN2C | C15H13FN4O2
